US09169242B2
4,4-Dimethyl-2-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4,5-dihydrooxazole
2-(3-bromo-4-methylphenyl)-4,4-dimethyl-4,5-dihydrooxazole (600 mg, 2.23 mmol, 1.0 eq) was reacted with bis(pinacolato)diboron (850 mg, 3.35 mmol, 1.5 eq) and Pd(dppf)Cl2 (90 mg, 0.11 mmol, 0.05 eq) by following the procedure described hereinbefore in step 6 of intermediate I to afford 700 mg of the desired product as a white solid. 1HNMR (400 MHz, CDCl3) δ 8.28 (d, J=1.0 Hz, 1H), 7.87 (dd, J=1.0, 8.0 Hz, 1H), 7.18 (d, J=8.0 Hz, 1H), 4.07 (s, 2H), 2.55 (s, 3H), 1.36 (s, 6H), 1.33 (s, 12H); ESI-MS (m/z) 316 (MH)+.

reactant | 2-(3-bromo-4-methylphenyl)-4,4-dimethyl-4,5-dihydrooxazole | 2.23 mmol, 600 mg, 1.0 eq | BrC=1C=C(C=CC1C)C=1OCC(N1)(C)C | C12H14BrNO
reactant | bis(pinacolato)diboron | 3.35 mmol, 850 mg, 1.5 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | Pd(dppf)Cl2 | 0.11 mmol, 90 mg, 0.05 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4,4-Dimethyl-2-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4,5-dihydrooxazole | 700 mg | CC1(N=C(OC1)C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)C | C18H26BNO3
